US08258144B2
1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-9H-purin-6-yl)piperidine-3-carboxamide
To a solution of 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-9H-purin-6-yl)piperidine-3-carboxylic acid (40 mg, 0.086 mmol) and HOBt (30 mg, 0.196 mmol) in DMF (2 mL), EDC (35 mg, 0.183 mmol) was added. After being stirred for 90 min, NH3 (0.5 M in dioxane, 1.00 mL, 0.500 mmol) was added. The mixture was stirred for 2 h. More EDC (52 mg, 0.271 mmol) was added. It was stirred for another 20 h. The mixture was then purified by HPLC to give the titled compound (30 mg). MS 464.3 (M+H); UV 204.8, 273.8 nm.

reactant | 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-9H-purin-6-yl)piperidine-3-carboxylic acid | 0.086 mmol, 40 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2N=CNC2=N1)N1CC(CCC1)C(=O)O | C23H28N8O3
reactant | HOBt | 0.196 mmol, 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.183 mmol, 35 mg
reactant | NH3 | 0.500 mmol, 0.5 M, 1.00 mL | N | H3N
reactant | EDC | 0.271 mmol, 52 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-9H-purin-6-yl)piperidine-3-carboxamide | 30 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC(=C2N=CNC2=N1)N1CC(CCC1)C(=O)N | C23H29N9O2
